US04065617
B. 3,3a,4,5,6,7-Hexahydro-3-phenyl-7-(phenylmethylene)-2-(2,2,2-trifluoroethyl)-2H-pyrazolo[4,3-c]pyridine, hydrochloride
3,5-Dibenzylidene-4-piperidone, hydrochloride (10.0g) is reacted with 5.8 g of 70% aqueous 2,2,2-trifluoroethylhydrazine in 220 ml of methanol at reflux for 4 hours. Evaporation of the methanol on a rotary evaporator leaves 14 g of a foamy residue which crystallizes when triturated with 50 ml of boiling acetonitrile to yield (after cooling for about 16 hours) 10.3 g of material, melting point 206°-209° C (sintering at 195° C). Crystallization from 80 ml of ethanol yields 6.7 g of product, melting point 207°-209° C, sintering at 196° C.

reactant | 3,5-Dibenzylidene-4-piperidone, hydrochloride | 10.0g | Cl.C(C1=CC=CC=C1)=C1CNCC(C1=O)=CC1=CC=CC=C1
reactant | 2,2,2-trifluoroethylhydrazine | 5.8 g | FC(CNN)(F)F | C2H5F3N2
solvent | methanol | 220 ml | CO | CH4O
product | 3,3a,4,5,6,7-Hexahydro-3-phenyl-7-(phenylmethylene)-2-(2,2,2-trifluoroethyl)-2H-pyrazolo[4,3-c]pyridine, hydrochloride | 14 g | Cl.C1(=CC=CC=C1)C1N(N=C2C1CNCC2=CC2=CC=CC=C2)CC(F)(F)F | InChI=1S/C21H20F3N3.ClH/c22-21(23,24)14-27-20(16-9-5-2-6-10-16)18-13-25-12-17(19(18)26-27)11-15-7-3-1-4-8-15;/h1-11,18,20,25H,12-14H2;1H
